US08802661B2
Preparation of methyl 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-(2-((2-methoxy-2-oxoethyl)(propyl)amino)ethylcarbamoyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate. Intermediate 28
A mixture of methyl 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-(2-(2-methoxy-2-oxoethylamino)ethylcarbamoyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate (28 mg, 0.041 mmol), 1-iodopropane (55.4 mg, 0.326 mmol) and potassium carbonate (11.27 mg, 0.082 mmol) in acetonitrile (2 mL) and dioxane (2.000 mL) was heated up for 8 hours. LCMS indicated the formation of desired product and consumption of starting material. The reaction mixture was quenched with distilled water, extracted with DCM (3×3 mL). All the extracts were combined, dried over sodium sulfate, filtered and concentrated under reduced pressure to provide the desired product as a white solid (20 mg, 67%). LCMS: m/e 729.47 (M+H)+, 2.96 min (method 1).

reactant | methyl 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-(2-(2-methoxy-2-oxoethylamino)ethylcarbamoyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate | 0.041 mmol, 28 mg | COC(CNCCNC(=O)[C@]12[C@@H]([C@H]3CC[C@@H]4[C@]5(CC=C(C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)C1=CC=C(C(=O)OC)C=C1)C)[C@@H](CC2)C(=C)C)=O | C43H62N2O5
reactant | 1-iodopropane | 0.326 mmol, 55.4 mg | ICCC | C3H7I
reactant | potassium carbonate | 0.082 mmol, 11.27 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
solvent | dioxane | 2.000 mL | O1CCOCC1 | C4H8O2
product | methyl 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-(2-((2-methoxy-2-oxoethyl)(propyl)amino)ethylcarbamoyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate | 20 mg, 67% | COC(CN(CCNC(=O)[C@]12[C@@H]([C@H]3CC[C@@H]4[C@]5(CC=C(C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)C1=CC=C(C(=O)OC)C=C1)C)[C@@H](CC2)C(=C)C)CCC)=O | C46H68N2O5
